US07511066B2
Using a procedure similar to that of Example 26-B, methyl 2-hydroxy-4-(2,2,2-trifluoroethoxy)benzoate (2.0 g, 7.99 mmol) is alkylated with 1-tert-butoxycarbonyl-4-hydroxypiperidine (1.61 g, 7.99 mmol) to afford methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(2,2,2-trifluoroethoxy)benzoate (2.86 g).

reactant | methyl 2-hydroxy-4-(2,2,2-trifluoroethoxy)benzoate | 7.99 mmol, 2.0 g | OC1=C(C(=O)OC)C=CC(=C1)OCC(F)(F)F | C10H9F3O4
reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 7.99 mmol, 1.61 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
product | methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(2,2,2-trifluoroethoxy)benzoate | 2.86 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)OCC(F)(F)F | C20H26F3NO6
